US07449475B2
2-[[(2R)-3-Chloro-2-hydroxy-2-methylpropyl]oxy]-1H-isoindole-1,3(2H)-dione
2-[[(2S)-2-Methyloxiranyl]methoxy]-1H-isoindole-1,3(2H)-dione (3.0 g, 12.9 mmol) was treated with concentrated hydrochloric acid (12 ml) and stirred at ambient temperature for 2 h. The mixture was partitioned between water and dichloromethane, the organics were dried and purified by chromatography (EtOAc) to give the sub-title compound as a colourless solid (3.3 g).

reactant | 2-[[(2S)-2-Methyloxiranyl]methoxy]-1H-isoindole-1,3(2H)-dione | 12.9 mmol, 3.0 g | C[C@@]1(OC1)CON1C(C2=CC=CC=C2C1=O)=O | C12H11NO4
reactant | hydrochloric acid | 12 ml | Cl | ClH
product | 2-[[(2R)-3-Chloro-2-hydroxy-2-methylpropyl]oxy]-1H-isoindole-1,3(2H)-dione | 3.3 g | ClC[C@](CON1C(C2=CC=CC=C2C1=O)=O)(C)O | C12H12ClNO4
